US06348474B1
3-Amino-4-ethylbenzoic acid
4-Ethyl-3-nitrobenzoic acid (5.0 g, 27.4 mmol) was dissolved in methanol (50 ml) and a Pd-C catalyst (5%, 250 mg) was added thereto. The mixture was stirred under a hydrogen atmosphere from 0° C. to room temperature for 1 hr. After the completion of the reaction, the catalyst was filtered off and the filtrate was concentrated under reduced pressure. The obtained crystals were washed with methyl t-butyl ether/hexane and dried to give the object compound (3.2 g, 70.6%).

reactant | 4-Ethyl-3-nitrobenzoic acid | 27.4 mmol, 5.0 g | C(C)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C9H9NO4
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd-C | 250 mg | [Pd] | Pd
product | 3-Amino-4-ethylbenzoic acid | 3.2 g, 70.6% | NC=1C=C(C(=O)O)C=CC1CC | C9H11NO2
